US08314088B2
N-methyl-N-(1-methylpropyl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine hydrochloride
To a solution of 8-benzyl-N-methyl-N-(1-methylpropyl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine (0.64 g) in methanol (20 mL) was added 20% Pd(OH)2/C (0.13 g), and the mixture was stirred under a hydrogen atmosphere at 50° C. for 2 hr. The reaction mixture was filtered, and the filtrate was concentrated. To a solution of the obtained crude product in ethyl acetate (20 mL) was added a 4 N hydrogen chloride-ethyl acetate solution (540 μL), and the mixture was stirred for 30 min. The reaction mixture was filtered, and the obtained crystals were purified by recrystallization (methanol-ethyl acetate) to give the title compound (0.44 g, 82%) as a pale-yellow powder.

reactant | 8-benzyl-N-methyl-N-(1-methylpropyl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine | 0.64 g | C(C1=CC=CC=C1)N1CCOC2=C(C1)N=CC(=N2)N(C(CC)C)C | C19H26N4O
reactant | hydrogen chloride-ethyl acetate | 4 N, 540 μL | C(C)(=O)OCC.Cl
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd(OH)2/C | 0.13 g | [OH-].[OH-].[Pd+2]
product | N-methyl-N-(1-methylpropyl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine hydrochloride | 0.44 g, 82% | Cl.CN(C1=NC2=C(CNCCO2)N=C1)C(CC)C | InChI=1S/C12H20N4O.ClH/c1-4-9(2)16(3)11-8-14-10-7-13-5-6-17-12(10)15-11;/h8-9,13H,4-7H2,1-3H3;1H
